US05998433
b) Synthesis of (Z)-N,N-dimethyl-[5-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
(Z)-N,N-Dimethyl-[5-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.095 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated, and recrystallized from methanol-diethyl ether to yield the desired product.

reactant | (Z)-N,N-Dimethyl-[5-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.095 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C=1SC(=CC1)\C=C/C1=CC=CC=C1 | C23H24N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-N,N-dimethyl-[5-[5-(2-phenylethenyl)thiophene-2-carbonyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)C=1SC(=CC1)\C=C/C1=CC=CC=C1 | InChI=1S/C23H24N2O2S.ClH/c1-24(2)16-19-14-18-15-25(13-12-21(18)27-19)23(26)22-11-10-20(28-22)9-8-17-6-4-3-5-7-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H/b9-8-;
